US07196104B2
Preparation BM: Ethyl 2-(2,6-dichloro-4-pyridyl)thiazole-4-carboxylate
2,6-Dichloropyridine-4-thiocarboxamide (1.0 g, 4.83 mmol) was dissolved in dry 1,4-dioxane followed by adding ethyl bromopyruvate (0.9 mL, 7.24 mmol) and pyridine (0.4 mL, 4.83 mmol). The resulting mixture was heated to reflux under N2 for 5 h. After cooling to RT, solvent was removed. The residue was extracted with CHCl3. The organic layer was washed with H2O and brine, dried over MgSO4, and concentrated to give a brownish solid. This crude was purified by chromatography on silica gel. Elution with hexane:acetone (90:10) gave a title compound as yellow solid. MS m/z: 303 (M+H). Calc'd. for C11H8Cl2N2O2S-303.16.

reactant | 2,6-Dichloropyridine-4-thiocarboxamide | 4.83 mmol, 1.0 g | ClC1=NC(=CC(=C1)C(N)=S)Cl | C6H4Cl2N2S
reactant | ethyl bromopyruvate | 7.24 mmol, 0.9 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | pyridine | 4.83 mmol, 0.4 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 2-(2,6-dichloro-4-pyridyl)thiazole-4-carboxylate | ClC1=NC(=CC(=C1)C=1SC=C(N1)C(=O)OCC)Cl | C11H8Cl2N2O2S
